US07230105B2
4-(3-fluorophenyl)-piperazine-1-carboxylic acid{5-[3-(acridine-9-yl-amino)-5-hydroxymethylphenylcarbamoyl]-6-ethyl-2-methoxy-pyridine-3-yl}amide
The same reaction procedure to the example 18 were carried out using 2-ethyl-5-{[4-(3-fluorophenyl)-piperazine-1-carbonyl]-amino}-6-methoxynicotinic acid and [3-(acridine-9-yl-amino)-5-aminophenyl]-methanol to give the titled compound.

reactant | 2-ethyl-5-{[4-(3-fluorophenyl)-piperazine-1-carbonyl]-amino}-6-methoxynicotinic acid | C(C)C1=C(C(=O)O)C=C(C(=N1)OC)NC(=O)N1CCN(CC1)C1=CC(=CC=C1)F | C20H23FN4O4
reactant | [3-(acridine-9-yl-amino)-5-aminophenyl]-methanol | C1=CC=CC2=NC3=CC=CC=C3C(=C12)NC=1C=C(C=C(C1)N)CO | C20H17N3O
product | 4-(3-fluorophenyl)-piperazine-1-carboxylic acid{5-[3-(acridine-9-yl-amino)-5-hydroxymethylphenylcarbamoyl]-6-ethyl-2-methoxy-pyridine-3-yl}amide | yield: 72.1% | C1=CC=CC2=NC3=CC=CC=C3C(=C12)NC=1C=C(C=C(C1)CO)NC(=O)C=1C=C(C(=NC1CC)OC)NC(=O)N1CCN(CC1)C1=CC(=CC=C1)F | C40H38FN7O4
